US04014887
A mixture of 31.4 parts of 2,2,6,6-tetramethylpiperidin-4-ol and 17.1 parts of benzyl bromide in 125 parts of ethyl alcohol was heated under reflux conditions for 96 hours. The cooled reaction mixture was filtered to remove 2,2,6,6-tetramethylpiperidin-4-ol hydrobromide formed during the reaction and the ethyl alcohol solvent was removed by distillation under reduced pressure. Purification of the residue by chromatography on a aluminia column using chloroform as the solvent gave 1-benzyl-2,2,6,6-tetramethylpiperidin-4-ol having a melting point of 151°-2°C and the following elemental analysis by weight

reactant | 2,2,6,6-tetramethylpiperidin-4-ol | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethyl alcohol | C(C)O | C2H6O
product | 1-benzyl-2,2,6,6-tetramethylpiperidin-4-ol | C(C1=CC=CC=C1)N1C(CC(CC1(C)C)O)(C)C | C16H25NO
